US04717724
(a) 6-[(2RS,4SR)-2-(4-chlorophenyl)-2-bromomethyl-1,3-dioxolan-4-ylmethyloxy]-2-(4-phenylbenzyl)-1,2,3,4-tetrahydroisoquinoline
1.1 g of sodium hydride (50% suspension in oil) are added in portions, with cooling, to a solution of 6.3 g of 6-hydroxy-2-(4-phenylbenzyl)-1,2,3,4-tetrahydroisoquinoline in 100 ml of dry dimethylformamide. The mixture is stirred at 50° for 1 hour and then 7.7 g of (2RS,4SR)-2-(4-chlorophenyl)-2-bromomethyl-1,3-dioxolan-4-ylmethyl methanesulfonate (preparation as in European Offenlegungsschrift No. 0,050,298) are added. The mixture is stirred at 80° C. for 5 hours and cooled, the solvent is removed under oil pump vacuum, and the residue is taken up with a mixture of water and methylene chloride. After washing twice with water and drying over magnesium sulfate, the solution is evaporated in a rotary evaporator, and the residue is chromatographed on silica gel with a mixture of methylene chloride and ethyl acetate in the ratio 3:1. 7.0 g of a highly viscous oil (58% of theory) are obtained.

reactant | sodium hydride | 1.1 g | [H-].[Na+]
reactant | 6-hydroxy-2-(4-phenylbenzyl)-1,2,3,4-tetrahydroisoquinoline | 6.3 g | OC=1C=C2CCN(CC2=CC1)CC1=CC=C(C=C1)C1=CC=CC=C1 | C22H21NO
reactant | (2RS,4SR)-2-(4-chlorophenyl)-2-bromomethyl-1,3-dioxolan-4-ylmethyl methanesulfonate | 7.7 g | CS(=O)(=O)OCC1OC(OC1)(CBr)C1=CC=C(C=C1)Cl | C12H14BrClO5S
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 6-[(2RS,4SR)-2-(4-chlorophenyl)-2-bromomethyl-1,3-dioxolan-4-ylmethyloxy]-2-(4-phenylbenzyl)-1,2,3,4-tetrahydroisoquinoline | ClC1=CC=C(C=C1)C1(OCC(O1)COC=1C=C2CCN(CC2=CC1)CC1=CC=C(C=C1)C1=CC=CC=C1)CBr | C33H31BrClNO3
